US08669255B2
(7R,8aS)-7-[(5-cyclopropylpyrazin-2-yl)oxy]-2-[4-(trifluoromethyl)benzyl]-hexahydropyrrolo[1,2-a]pyrazin-1(2H)-one
To a solution of 7-(5-cyclopropylpyrazin-2-yloxy)hexahydropyrrolo[1,2-a]-pyrazin-1(2H)-one [3:1 (7R,8aS: 7R,8aR) diastereomer ratio](112 mg, 0.408 mmol) from Example 163 Step 3 in N,N-dimethylformamide (1 mL) under nitrogen was added sodium hydride (60% weight suspension in mineral oil) (19.60 mg, 0.490 mmol), and the resulting suspension was stirred at room temperature. After 20 minutes, the suspension was treated with 1-(bromomethyl)-4-(trifluoromethyl)benzene (0.076 mL, 0.490 mmol). The resulting solution was stirred at room temperature for 3 hours, and it was then partitioned between water and ethyl acetate (3×). The combined organic extracts were dried over sodium sulfate and then filtered. The filtrate was concentrated under a stream of nitrogen, and the crude material was purified with a 12 g silica gel cartridge eluted with a gradient 0-5% methanol/dichloromethane over 17 minutes to give an oil. The oil (54 mg) was loaded onto 2×0.25 mm silica gel prep plates and eluted with 5% methanol/ethyl acetate to give the title compound (33 mg, 0.076 mmol, 18.69% yield) as the first eluting diastereomer as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.07 (d, J=1.4 Hz, 1H), 7.94 (d, J=1.4 Hz, 1H), 7.60 (d, J=8.1 Hz, 2H), 7.38 (d, J=8.0 Hz, 2H), 5.49-5.39 (m, 1H), 4.71 (d, J=14.9 Hz, 1H), 4.60 (d, J=14.9 Hz, 1H), 3.71 (t, J=8.0 Hz, 1H), 3.46 (ddd, J=12.1, 7.9, 6.6 Hz, 1H), 3.38 (dd, J=10.9, 5.7 Hz, 1H), 3.20 (dt, J=12.1, 4.0 Hz, 1H), 3.07-2.99 (m, 2H), 2.88 (dd, J=10.8, 3.0 Hz, 1H), 2.53 (ddd, J=15.1, 8.0, 7.3 Hz, 1H), 2.44 (ddd, J=14.6, 7.9, 1.7 Hz, 1H), 1.99 (tt, J=7.8, 5.3 Hz, 1H), 1.01-0.90 (m, 4H); MS (ESI+) m/z 433 (M+H)+.

reactant | 7-(5-cyclopropylpyrazin-2-yloxy)hexahydropyrrolo[1,2-a]-pyrazin-1(2H)-one | 0.408 mmol, 112 mg | C1(CC1)C=1N=CC(=NC1)OC1CC2N(CCNC2=O)C1 | C14H18N4O2
reactant | sodium hydride | 0.490 mmol, 19.60 mg | [H-].[Na+]
reactant | 1-(bromomethyl)-4-(trifluoromethyl)benzene | 0.490 mmol, 0.076 mL | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (7R,8aS)-7-[(5-cyclopropylpyrazin-2-yl)oxy]-2-[4-(trifluoromethyl)benzyl]-hexahydropyrrolo[1,2-a]pyrazin-1(2H)-one | 0.076 mmol, 33 mg, 18.69% yield | C1(CC1)C=1N=CC(=NC1)O[C@@H]1C[C@@H]2N(CCN(C2=O)CC2=CC=C(C=C2)C(F)(F)F)C1 | C22H23F3N4O2
